US04382897
Into the experimental apparatus described in Example 1, 2 g HgSO4 and 10 g BBr3 are added. A solution of 93.7 g CF3CCl3, 162 g SO3 and 4 g H2SO4 are added in drops. The trifluoroacetylchloride leaving the reflux condenser is passed through a wash flask with H2SO4 and subsequently fed into a reaction vessel with ethanol. In the process, trifluoracetic acid ethylester is formed.

reactant | BBr3 | 10 g | B(Br)(Br)Br | BBr3
reactant | CF3CCl3 | 93.7 g | C(F)(F)(F)C(Cl)(Cl)Cl | C2Cl3F3
reactant | H2SO4 | 4 g | OS(=O)(=O)O | H2O4S
reactant | trifluoroacetylchloride | FC(C(=O)Cl)(F)F | C2ClF3O
solvent | ethanol | C(C)O | C2H6O
product | trifluoracetic acid ethylester | C(C)OC(C(F)(F)F)=O | C4H5F3O2
